US04388317
5-(Dimethylaminomethyl)thiophene-2-carboxaldehyde (40.09 g) and piperidine (3 ml) were added to a solution of malonic acid (24.65 g) in pyridine (150 ml). The mixture was stirred under reflux for 7 hours. During the reaction a solid precipitated and slowly re-dissolved. The solution was allowed to cool and was then poured on to 2 M hydrochloric acid (150 ml). The volume of the solution was reduced to about 120 ml by evaporation at reduced pressure and extracted with diethyl ether. The ether extracts were washed with water. The aqueous phase was cooled and the solid, which precipitated out, was filtered off and washed with water-isopropanol. More solid was obtained by evaporating the filtrate to about 100 ml and adding isopropanol and cooling the mixture in ice for about 15 minutes. This solid was filtered off, and washed with isopropanol. The solids were combined and recrystallised from isopropanol-water to give 3-(5-dimethylaminomethyl-2-thienyl)acrylic acid (27.45 g) m.p. 223.5°-225° C.

reactant | 5-(Dimethylaminomethyl)thiophene-2-carboxaldehyde | 40.09 g | CN(C)CC1=CC=C(S1)C=O | C8H11NOS
reactant | piperidine | 3 ml | N1CCCCC1 | C5H11N
reactant | malonic acid | 24.65 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 3-(5-dimethylaminomethyl-2-thienyl)acrylic acid | 27.45 g | CN(C)CC1=CC=C(S1)C=CC(=O)O | C10H13NO2S
